US04629821
9-methyl anthracene was reacted with formalin and HCl in glacial acetic acid to produce the starting material 9-(chloromethyl)-10-methylanthracene (0.44 gms). The 9-(chloromethyl-10-methyl anthracene (0.44 gms.) was dissolved in 10 mls of dioxane with heating to 70° C. Stannous chloride dihydrate (0.412 gms) was added and the mixture was reacted with stirring at 70° C. for 40 minutes under nitrogen gas. The reaction was then cooled and the solution quenched with methanol. The solution was filtered to remove the methyl lepidopterene. This solid was then redissolved in methylene chloride and filtered to remove any insoluble material. The methylene chloride solution of the lepidopterene was quenched with methanol to precipitate the lepidopterene and filtered to remove the material. 0.2 grams of a colorless, crystalline solid were obtained. (See also H.-D. Becker, J.Org.Chem., 44, 1337(1979)

reactant | 9-methyl anthracene | CC=1C2=CC=CC=C2C=C2C=CC=CC12 | C15H12
reactant | formalin | C=O | CH2O
reactant | HCl | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 9-(chloromethyl)-10-methylanthracene | 0.44 gms | ClCC=1C2=CC=CC=C2C(=C2C=CC=CC12)C | C16H13Cl
